US03991053
To a stirred solution of 15.5 g. (0.15 mol.) of ethyl glycolate in 60 ml. of methylene chloride, cooled to 5° C., was added 12.6 g. (0.15 mol.) of dihydropyran, followed by 50 mg. of 4-toluenesulfonic acid monohydrate. After the immediate exothermic reaction which ensued had subsided, the methylene chloride solution was washed successively with water, 5% sodium bicarbonate and water. The dried solution was then evaporated to give 23.8 g. (85% yield) of ethyl 2-(2-tetrahydropyranyloxy)acetate as a clear oil.

reactant | ethyl glycolate | 0.15 mol | C(CO)(=O)OCC | C4H8O3
reactant | dihydropyran | 0.15 mol | O1CCCC=C1 | C5H8O
reactant | 4-toluenesulfonic acid monohydrate | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | ethyl 2-(2-tetrahydropyranyloxy)acetate | 85% yield | O1C(CCCC1)OCC(=O)OCC | C9H16O4
